US07820704B2
To the 3-[[4-(4-isopropyl-phenyl)-thiazol-2-yl]-(2-thiophen-2-yl-ethyl)-amino]-propionic acid ethyl ester (95 mg, 0.22 mmol) was added LiOH (3 mL; 2N LiOH-MeOH-THF=1:1:4) and the reaction was stirred at room temperature for 4 h before acidifying with 1 N HCl. Brine was added, and the mixture was extracted with DCM (3×10 ml). The combined extracts were dried over Na2SO4, concentrated and purified on silica gel column to provide 3-[[4-(4-isopropyl-phenyl)-thiazol-2-yl]-(2-thiophen-2-yl-ethyl)-amino]-propionic acid hydrochloride salt (58 mg). LCMS m/z: 402 (M+1)+.

reactant | 3-[[4-(4-isopropyl-phenyl)-thiazol-2-yl]-(2-thiophen-2-yl-ethyl)-amino]-propionic acid ethyl ester | 0.22 mmol, 95 mg | C(C)OC(CCN(CCC=1SC=CC1)C=1SC=C(N1)C1=CC=C(C=C1)C(C)C)=O | C23H28N2O2S2
reactant | LiOH | 2N, 3 mL | [Li+].[OH-]
reactant | HCl | 1 N | Cl | ClH
solvent | Brine | [Cl-].[Na+].O
product | 3-[[4-(4-isopropyl-phenyl)-thiazol-2-yl]-(2-thiophen-2-yl-ethyl)-amino]-propionic acid hydrochloride salt | 58 mg | Cl.C(C)(C)C1=CC=C(C=C1)C=1N=C(SC1)N(CCC(=O)O)CCC=1SC=CC1 | InChI=1S/C21H24N2O2S2.ClH/c1-15(2)16-5-7-17(8-6-16)19-14-27-21(22-19)23(12-10-20(24)25)11-9-18-4-3-13-26-18;/h3-8,13-15H,9-12H2,1-2H3,(H,24,25);1H
